US06992087B2
Preparation of N-[5-(2,4-dichlorophenyl)-3,6-dimethylpyrazin-2-yl]isoquinolin-1-amine
Following the procedure for the preparation of (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting 2-bromo-5-(2,4-dichlorophenyl)-3,6-dimethylpyrazine and isoquinolin-1-amine, and making non-critical variations provided the title compound as a oil: 1H NMR (CDCl3) δ 2.36, 2.93, 6.75, 7.38, 7.53, 7.57, 8.96; HRMS (ESI+) calcd for C21H16Cl2N4 (M+H)+ 395.0830, found 395.0821.

reactant | (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | C(C)C=1C(=NC(=CN1)CC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C17H21N3O
reactant | 2-bromo-5-(2,4-dichlorophenyl)-3,6-dimethylpyrazine | BrC1=NC(=C(N=C1C)C1=C(C=C(C=C1)Cl)Cl)C | C12H9BrCl2N2
reactant | isoquinolin-1-amine | C1(=NC=CC2=CC=CC=C12)N | C9H8N2
product | N-[5-(2,4-dichlorophenyl)-3,6-dimethylpyrazin-2-yl]isoquinolin-1-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1C)NC1=NC=CC2=CC=CC=C12)C | C21H16Cl2N4
